US05925789
Preparation of N-Triphenylmethyl-4-chloro-2-trifluoroacetylaniline. Method A
4-Chloro-2-trifluoroacetylaniline (22.4 g, 100 mmol), trityl chloride (30.0 g, 107 mmol), triethylamine (11.6 g, 115 mmol) and DMAP (0.5 g, 4 mmol) were dissolved in DMF (50 mL) and held 14 h at 60° C. The resulting slurry was cooled to room temperature, diluted with 20 mL water and filtered to give 35.9 g (77%) of title compound. An analytical sample was obtained by recrystallization from acetonitrile: mp 165-167° C.; 1H NMR (CDCl3) δ 10.4 (brs, 1H), 7.71 (brt, J=2 Hz, 1H), 7.3 (brs, 15 H), 6.9 (dd, J=2, 8 Hz, 1H), 6.27 (d, J=8 Hz, 1H) 13C NMR (75 MHz, CDCl3) δ 180.5, 151.2, 144.1, 135.7, 130.7, 130.6, 129.2, 128.9, 128.7, 128.6, 128.5, 128.2, 128.0, 127.7, 127.5, 122.9, 120.3, 119.3, 119.1, 115.2, 112.3, 111.3, 71.9; 19F NMR (282 MHz, CDCL3) δ -69.5.

reactant | 4-Chloro-2-trifluoroacetylaniline | 100 mmol, 22.4 g | ClC1=CC(=C(N)C=C1)C(C(F)(F)F)=O | C8H5ClF3NO
reactant | trityl chloride | 107 mmol, 30.0 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | triethylamine | 115 mmol, 11.6 g | C(C)N(CC)CC | C6H15N
catalyst | DMAP | 4 mmol, 0.5 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | water | 20 mL | O | H2O
product | N-Triphenylmethyl-4-chloro-2-trifluoroacetylaniline | 35.9 g, 77% | C1(=CC=CC=C1)C(NC1=C(C=C(C=C1)Cl)C(C(F)(F)F)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H19ClF3NO
